US04060633
A solution of 27.9 g. of 1-chloro-3-(4'-fluoro-4-biphenylyl)-butan-3-ol in 60 ml. of dimethylsulfoxide is added, at 80°, to a solution of 7.6 g. of NaCN in 100 ml. of dimethylsulfoxide. The mixture is warmed to 80°-90° for 6 hours, poured onto ice and worked up in the customary manner to give 1-cyano-3-(4'-fluoro-4-biphenylyl)-butan-3-ol, m.p. 118°-120°.

reactant | 1-chloro-3-(4'-fluoro-4-biphenylyl)-butan-3-ol | ClCCC(C)(O)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C16H16ClFO
reactant | NaCN | [C-]#N.[Na+]
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 1-cyano-3-(4'-fluoro-4-biphenylyl)-butan-3-ol | C(#N)CCC(C)(O)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C17H16FNO
